US08865736B2
2-Bromomethyl-4-(4-methoxy-phenyl)-thiazole-5-carboxylic acid methyl ester
To the solution of 4-(4-Methoxy-phenyl)-2-methyl-thiazole-5-carboxylic acid methyl ester (0.25 g, 0.94 mmol) in the 20 ml of CCl4 was added NBS (0.16 g, 0.94 mmol) and AIBN (0.015 g, 0.094 mmol). The reaction mixture was heated at 100° C. for 2 h under nitrogen atmosphere. After the completion of the reaction mixture (TLC monitoring), the reaction mixture was evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica (230-400 M) using 10% ethyl acetate/hexane as a eluent to give the desired product (0.078 g, 24%).

reactant | 4-(4-Methoxy-phenyl)-2-methyl-thiazole-5-carboxylic acid methyl ester | 0.94 mmol, 0.25 g | COC(=O)C1=C(N=C(S1)C)C1=CC=C(C=C1)OC | C13H13NO3S
reactant | NBS | 0.94 mmol, 0.16 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.094 mmol, 0.015 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-4-(4-methoxy-phenyl)-thiazole-5-carboxylic acid methyl ester | 0.078 g, 24% | COC(=O)C1=C(N=C(S1)CBr)C1=CC=C(C=C1)OC | C13H12BrNO3S
